US05866560
First 30 ml of a solution that consists of 41 ml of 1-bromo-6-chlorohexane in 270 ml of THF is added to a suspension of 6.8 g of magnesium chips in 100 ml of THF. After the reaction starts, the remaining solution is added in drops in such a way that the internal temperature does not exceed 35° C. In a second flask, 48.1 g of lithium bromide is added to a suspension of 26.4 g of copper(I) iodide in 120 ml of THF at 0° C., whereby the internal temperature climbs to 40° C. Without cooling, 46.4 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-(1H)-pyrimidin-2-one is now added and stirred for 30 minutes at 40° C. A clear solution is obtained, which is added in drops to the Grignard solution that is cooled to -40° C. Then, it is stirred for 30 more minutes at -30° C. and mixed drop by drop at -50° C. with a solution of 23.5 g of 11β-fluoro-estra-4,6-diene-3,17-dione in 230 ml of THF, 24.6 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-(1H)-pyrimidin-2-one and 55 ml of trimethyl-chlorosilane in such a way that the internal temperature does not exceed -40° C. It is stirred for 1 hour cold, then 32 ml of glacial acetic acid is added in drops, the cooling bath is removed and stirred for 1 more hour at room temperature. For working-up, the reaction mixture is added to 1.51 of water, diluted with the same amount of ethyl acetate, the precipitate is separated on Celite, rewashed with ethyl acetate, the aqueous phase is extracted 3 times with ethyl acetate, washed with sodium bicarbonate and common salt solution, dried on magnesium sulfate and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient, 25.2 g of 7α-(6-chlorohexyl)-11β-fluoro-estr-4-ene-3,17-dione is obtained.

reactant | 1-bromo-6-chlorohexane | 41 ml | BrCCCCCCCl | C6H12BrCl
reactant | magnesium | 6.8 g | [Mg] | Mg
reactant | lithium bromide | 48.1 g | [Br-].[Li+]
reactant | 11β-fluoro-estra-4,6-diene-3,17-dione | 23.5 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C=C[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H21FO2
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 230 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-(1H)-pyrimidin-2-one | 24.6 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | trimethyl-chlorosilane | 55 ml | C[Si](Cl)(C)C | C3H9ClSi
catalyst | copper(I) iodide | 26.4 g | [Cu]I
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-(1H)-pyrimidin-2-one | 46.4 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
product | 7α-(6-chlorohexyl)-11β-fluoro-estr-4-ene-3,17-dione | 25.2 g | ClCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C24H34ClFO2
